US09340513B2
4-(((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (1556 mg, 1.934 mmol) in DCM (12 mL) stirred at room temp was added TFA (4 mL, 51.9 mmol). The reaction mixture was stirred at rt for 2 h. The mixture was evaporated to dryness, then diluted with 200 ml DCM. The organic phase was washed with saturated NaHCO3 solution (200 mL*3), water and brine. The organics were dried and concentrated under reduced pressure to afford the crude product which was purified by preparative-HPLC to give the title compound (550 mg, 38%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ=7.40-7.17 (m, 4H), 6.85 (d, J=15.3 Hz, 1H), 5.72-5.49 (m, 2H), 5.18 (t, J=7.2 Hz, 1H), 4.50 (dd, J=5.6, 10.7 Hz, 1H), 3.28-3.10 (m, 1H), 2.74-2.62 (m, 1H), 2.62-2.50 (m, 1H), 2.24 (br. s., 3H), 2.08-1.92 (m, 2H), 1.89-0.70 (m, 49H); LC/MS: m/z calculated 747.5. Found 748.2 (M+1)+.

reactant | 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 1.934 mmol, 1556 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(CC5)C(C)C)\C=C\C(=O)N[C@@H](C)C5=CC(=CC=C5)Cl)C)C)(C)C)C | C50H74ClNO5
reactant | TFA | 51.9 mmol, 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-(((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 550 mg, 38% | ClC=1C=C(C=CC1)[C@H](C)NC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(CC2)C(C)C)=O | C46H66ClNO5
